US05424309
2 g of 1-naphthoaldehyde, 2.3 g of diethyl malonate and 0.2 ml of piperidine were dissolved in 10 ml of benzene, and the solution was refluxed under heating for 6 hours while removing water by azeotropic distillation. The reaction solution was diluted with benzene, washed sequentially with 1N hydrochloric acid, with a saturated sodium hydrogencarbonate aqueous solution, with water and with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was dissolved in a mixture consisting of 55 ml of ethanol and 37 ml of THF, and 2.7 g of sodium borohydride and 3.0 g of lithium chloride were added thereto under cooling with ice. The mixture was stirred at room temperature for 1 hour and then concentrated under reduced pressure. Water was added to the residue, and the solution was neutralized with 6N hydrochloric acid and extracted with ethyl acetate. The extract layer was washed with a saturated sodium hydrogencarbonate aqueous solution, with water and with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. Then, solvent was distilled off under reduced pressure. The residue was recrystallized from diethyl ether-n-hexane to obtain 2.5 g of 2-(1-naphthylmethyl)-1,3-propanediol.

reactant | 1-naphthoaldehyde | 2 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | diethyl malonate | 2.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-naphthylmethyl)-1,3-propanediol | 2.5 g | C1(=CC=CC2=CC=CC=C12)CC(CO)CO | C14H16O2
